US06667301B2
A mixture of propyl-[(S)-2-(4-methanesulfonylphenyl)-1-methylethyl]-amine hydrochoride (0.50 g, 1.7 mmole), 3-oxo-4-(4-oxobutyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (0.5 g, 1.76 mmole), triethylamine (0.24 mL, 1.7 mmole), and sodium triacetoxyborohydride (0.54 g, 2.6 mmole) in 1,2-dichloroethane (20 mL) was stirred at room temperature for 17 hours. The solvent was removed, and the residue was partitioned between ethyl acetate (30 mL) and 5% sodium carbonate (20 mL). The organic phase was dried (magnesium sulfate) and concentrated to give 4-(4-{[(S)-2-(4-methanesulfonyl-phenyl)-1-methylethyl]propylamino}butyl)-3-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester, (0.89 g), as a syrup. Nmr (chloroform-a) δ (ppm): 0.82, t, 3H; 0.94, d, 3H; 1.46, s, 9H; 3.05, s, 3H; 7.36, d, 2H; 7.83, d, 2H.

reactant | propyl-[(S)-2-(4-methanesulfonylphenyl)-1-methylethyl]-amine hydrochoride | 1.7 mmole, 0.50 g | Cl.C(CC)N[C@H](CC1=CC=C(C=C1)S(=O)(=O)C)C
reactant | 3-oxo-4-(4-oxobutyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.76 mmole, 0.5 g | C(C)(C)(C)OC(=O)N1CC(N(CCC1)CCCC=O)=O | C14H24N2O4
reactant | triethylamine | 1.7 mmole, 0.24 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 2.6 mmole, 0.54 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 4-(4-{[(S)-2-(4-methanesulfonyl-phenyl)-1-methylethyl]propylamino}butyl)-3-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 0.89 g | C(C)(C)(C)OC(=O)N1CC(N(CCC1)CCCCN(CCC)[C@H](CC1=CC=C(C=C1)S(=O)(=O)C)C)=O | C27H45N3O5S
